* AD103 Lab 03 - gm, ro, and the gain one transistor can give you
*
* Four devices, all in saturation at V_GS = V_DS = 1.8 V, differing only in
* channel length. For each one the model reports:
*
*   gm    how much drain current moves per volt of gate  (siemens)
*   gds   how much drain current moves per volt of drain  (siemens)
*
* ro is 1/gds, and gm*ro -- gm/gds -- is the INTRINSIC GAIN: the largest
* voltage gain this device can produce, before you connect anything to it.
*
* The second half steps the gate on the L = 1 um device so you can watch gm
* and gm/I_D move with bias. gm/I_D is the efficiency number analog designers
* actually size with.

.lib $PDK_ROOT/sky130A/libs.tech/ngspice/sky130.lib.spice.tt.red tt

XMA da g 0 0 sky130_fd_pr__nfet_01v8 L=0.15 W=5
XMB db g 0 0 sky130_fd_pr__nfet_01v8 L=0.5  W=5
XMC dc g 0 0 sky130_fd_pr__nfet_01v8 L=1    W=5
XMD dd g 0 0 sky130_fd_pr__nfet_01v8 L=4    W=5

Vgs g  0 1.8
Vda da 0 1.8
Vdb db 0 1.8
Vdc dc 0 1.8
Vdd dd 0 1.8

.control
op
echo
echo "--- W = 5 um, V_GS = V_DS = 1.8 V, four channel lengths ---"
echo "L = 0.15 um"
print i(Vda) @m.xma.msky130_fd_pr__nfet_01v8[gm] @m.xma.msky130_fd_pr__nfet_01v8[gds]
echo "L = 0.5 um"
print i(Vdb) @m.xmb.msky130_fd_pr__nfet_01v8[gm] @m.xmb.msky130_fd_pr__nfet_01v8[gds]
echo "L = 1 um"
print i(Vdc) @m.xmc.msky130_fd_pr__nfet_01v8[gm] @m.xmc.msky130_fd_pr__nfet_01v8[gds]
echo "L = 4 um"
print i(Vdd) @m.xmd.msky130_fd_pr__nfet_01v8[gm] @m.xmd.msky130_fd_pr__nfet_01v8[gds]

echo
echo "--- L = 1 um device, gate stepped: I_D, gm, gds ---"
foreach vg 0.7 0.9 1.1 1.3 1.5 1.8
  alter Vgs = $vg
  op
  echo "V_GS = $vg V"
  print i(Vdc) @m.xmc.msky130_fd_pr__nfet_01v8[gm] @m.xmc.msky130_fd_pr__nfet_01v8[gds]
end
.endc
.end
